US07781426B2
To a solution of (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-(ethylamino)-5-(trifluoromethoxy)benzyl]-4-methyl-1,3-oxazolidin-2-one (68.2 mg, 0.129 mmol) in dichloroethane (2 mL) was added 4-(5,5-dimethyl-1,3-dioxan-2-yl)butanal (119 mg, 0.643 mmol) and NaBH(OAc)3 (136 mg, 0.643 mmol). The reaction was stirred at room temperature for 72 hours and then diluted with EtOAc (30 mL), quenched with saturated NH4Cl solution (10 mL), and washed with water and brine (10 mL each). The organic layer was dried over Na2SO4, filtered, and concentrated. Purification of the residue by flash chromatography on silica gel (0 to 25% EtOAc/hexanes) afforded (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-[[4-(5,5-dimethyl-1,3-dioxan-2-yl)butyl](ethyl)amino]-5-(trifluoromethoxy)benzyl]-4-methyl-1,3-oxazolidin-2-one. Rf=0.62 (25% EtOAc/hexanes). LCMS=701.3 (M+1)+. 1H NMR (CDCl3, 500 MHz) δ7.97 (s, 1H), 7.85 (s, 2H), 7.23-7.19 (m, 3H), 5.79 (d, J=8.1 Hz, 1H), 4.79 (d, J=16.0 Hz, 1H), 4.62 (d, J=16.0 Hz, 1H), 4.43 (t, J=4.9 Hz, 1H), 4.11-4.01 (m, 1H), 3.61 (d, J=1.1 Hz, 2H), 3.44 (d, J=10.8 Hz, 2H), 3.06-3.00 (m, 4H), 1.71-1.41 (m, 6H), 1.12 (s, 3H), 1.05-1.01 (t, J=7.0 Hz, 3H), 0.77 (s, 3H), 0.74 (d, J=6.6 Hz, 3H).

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-(ethylamino)-5-(trifluoromethoxy)benzyl]-4-methyl-1,3-oxazolidin-2-one | 0.129 mmol, 68.2 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)OC(F)(F)F)NCC)C)(F)F | C22H19F9N2O3
reactant | 4-(5,5-dimethyl-1,3-dioxan-2-yl)butanal | 0.643 mmol, 119 mg | CC1(COC(OC1)CCCC=O)C | C10H18O3
reactant | NaBH(OAc)3 | 0.643 mmol, 136 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | dichloroethane | 2 mL | ClC(C)Cl | C2H4Cl2
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-[[4-(5,5-dimethyl-1,3-dioxan-2-yl)butyl](ethyl)amino]-5-(trifluoromethoxy)benzyl]-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)OC(F)(F)F)N(CC)CCCCC1OCC(CO1)(C)C)C)(F)F | C32H37F9N2O5
